US05428041
Preparation of N-[4,4-bis(trifluoromethyl)-4,5-dihydro-1-methyl-2-[4-(1-piperidinyl)phenyl]-1H-imidazol-5-yl]-N-methylheptanamide, hydrochloride
To a solution of N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1H-imidazol-5-yl]-N-methylheptanamide hydrochloride (0.20 g, 0.4 mmole) in dimethyl sulfoxide (5 mL) was added potassium carbonate (0.29 g, 1.2 mmole) and piperidine (0.10 g, 1.2 mmole). The reaction mixture was heated at 145° overnight under nitrogen. The solution was cooled to room temperature, poured into water and extracted with ether. The ether layer was washed with 1N HCL to give unreacted starting material. The aqueous layer was made basic and it was extracted with ether. The organic layer was washed with water and saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under vacuum. The residue was treated with HCl in ether to give the title compound (50 mg, 22%) as a semi solid: MS m/e 521 (M+ +H); 1H NMR (CDCl3 /TMS) δ 0.90(m,3H,CH3), 1.30(m,8H,(CH2)4), 1.67(m,6H,(CH2)3), 2.40(t,2H,CH2), 2.90(s,3H,NCH3), 2.97(s,3H,NCH3), 3.30(m,4H,2CH2), 6.53(s,1H,CH), 6.90(d,2H,Harom), 7.53(d,2H,Harom).

reactant | N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1H-imidazol-5-yl]-N-methylheptanamide hydrochloride | 0.4 mmole, 0.20 g | Cl.FC(C1(N=C(NC1N(C(CCCCCC)=O)C)C1=CC=C(C=C1)F)C(F)(F)F)(F)F
reactant | potassium carbonate | 1.2 mmole, 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 1.2 mmole, 0.10 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-[4,4-bis(trifluoromethyl)-4,5-dihydro-1-methyl-2-[4-(1-piperidinyl)phenyl]-1H-imidazol-5-yl]-N-methylheptanamide, hydrochloride | 50 mg, 22% | Cl.FC(C1(N=C(N(C1N(C(CCCCCC)=O)C)C)C1=CC=C(C=C1)N1CCCCC1)C(F)(F)F)(F)F | InChI=1S/C25H34F6N4O.ClH/c1-4-5-6-8-11-20(36)33(2)22-23(24(26,27)28,25(29,30)31)32-21(34(22)3)18-12-14-19(15-13-18)35-16-9-7-10-17-35;/h12-15,22H,4-11,16-17H2,1-3H3;1H
